US07767675B2
Step 3. 6-(4-Fluorophenyl)-3-(4-methoxybenzyl)imidazo[1,2-a]pyrimidine
A mixture of 5-(4-fluorophenyl)pyrimidin-2-amine (50 mg, 0.3 mmol), 2-chloro-3-(4-methoxyphenyl)propanal (52 mg, 0.26 mmol) in tert-amyl alcohol (1.0 mL) in a sealed reaction vial was heated at 130° C. for 3 hours. After cooling, the mixture was purified by preparative HPLC to afford the desired product. LCMS: (M+H)=334.0.

reactant | 5-(4-fluorophenyl)pyrimidin-2-amine | 0.3 mmol, 50 mg | FC1=CC=C(C=C1)C=1C=NC(=NC1)N | C10H8FN3
reactant | 2-chloro-3-(4-methoxyphenyl)propanal | 0.26 mmol, 52 mg | ClC(C=O)CC1=CC=C(C=C1)OC | C10H11ClO2
solvent | tert-amyl alcohol | 1.0 mL | C(C)(C)(CC)O | C5H12O
product | 6-(4-Fluorophenyl)-3-(4-methoxybenzyl)imidazo[1,2-a]pyrimidine | FC1=CC=C(C=C1)C=1C=NC=2N(C1)C(=CN2)CC2=CC=C(C=C2)OC | C20H16FN3O
